US08754107B2
To a solution of 1-benzyl-4-(4-fluorophenyl)-3-methylpiperidin-4-ol (1.02 g, 3.41 mmol) in ethanol (18 mL) at 80° C. was added concentrated HCl (18 mL, 592 mmol). The reaction mixture was refluxed for 2 hour and then cooled to ambient temperature. The organic solvent was removed in vacuo. The aqueous solution was basified with concentrated NaOH to pH>9 then extracted with DCM (50 mL). The organic layer was washed with brine (2×10 mL), dried over MgSO4, filtered, and concentrated in vacuo. The residue was dissolved in EtOH (2 mL) and acetic acid (0.2 mL). The reaction mixture was hydrogenated with Pd/C (10%) in an H-cube™ apparatus at 60° C. for 3 minutes. The solvent was removed in vacuo and the residue was purified by preparative RP-HPLC (10% acetonitrile/0.05M aqueous ammonium acetate buffered to pH 4.5 for 2.5 min then 10% to 15% acetonitrile/0.05M aqueous ammonium acetate buffered to pH 4.5 over 4.0 min then 15% to 45% acetonitrile/0.05M aqueous ammonium acetate buffered to pH 4.5 over 4.0 min at 25 mL/min; APCI positive mode detection; Xterra prep. MS C18 19×50 mm column) to afford 4-(4-fluorophenyl)-3-methylpiperidine (0.438 g, 66%). RP-HPLC (Table 1, Method a) Rt 1.43 min; m/z: (M+H)+ 194.

reactant | 1-benzyl-4-(4-fluorophenyl)-3-methylpiperidin-4-ol | 3.41 mmol, 1.02 g | C(C1=CC=CC=C1)N1CC(C(CC1)(O)C1=CC=C(C=C1)F)C | C19H22FNO
reactant | HCl | 592 mmol, 18 mL | Cl | ClH
solvent | ethanol | 18 mL | C(C)O | C2H6O
product | 4-(4-fluorophenyl)-3-methylpiperidine | 0.438 g, 66% | FC1=CC=C(C=C1)C1C(CNCC1)C | C12H16FN
